simulator lang=spectre
global 0

ahdl_include "./dut/max_detector_hold.va"

Vin (vin 0) vsource type=pwl wave=[0 0.20 10n 0.20 10.1n 0.70 20n 0.70 20.1n 0.40 30n 0.40 30.1n 0.85 60n 0.85]

XDUT (vin vout) max_detector_hold


simulatorOptions options evas_profile=balanced

tran tran stop=40n maxstep=25p
save vin vout
