simulator lang=spectre
global 0

ahdl_include "./dut/offset_bisection_driver.va"

Vclk (clk 0) vsource type=pwl wave=[0 0 1n 0 1.05n 0.9 2n 0.9 2.05n 0 3n 0 3.05n 0.9 4n 0.9 4.05n 0 5n 0 5.05n 0.9 6n 0.9 6.05n 0 7n 0 7.05n 0.9 8n 0.9 8.05n 0 9n 0 9.05n 0.9 10n 0.9 10.05n 0 11n 0 11.05n 0.9 12n 0.9 12.05n 0]
Vvout (vout 0) vsource type=pwl wave=[0 0.1 5.5n 0.1 5.55n 0.8 9.5n 0.8 9.55n 0.1 11.5n 0.1 11.55n 0.8]
Vvcm (vcm 0) vsource dc=0.5

XDUT (clk vout vcm vinp vinn) offset_bisection_driver


simulatorOptions options evas_profile=balanced

tran tran stop=14n maxstep=20p
save clk vout vcm vinp vinn
