simulator lang=spectre
global 0

ahdl_include "./dut/cmp_offset_ref.va"

Vvdd (VDD 0) vsource dc=0.9
Vvss (VSS 0) vsource dc=0.1
Vclk (CLK 0) vsource type=pulse val0=0.1 val1=0.54 delay=1n rise=20p fall=20p width=1n period=4n

Vinp (VINP 0) vsource type=pwl wave=[ \
    0      0.538 \
    4.1n   0.538 \
    4.3n   0.549 \
    8.1n   0.549 \
    8.3n   0.554 \
    12.2n  0.554 \
    12.4n  0.558 \
    16.1n  0.558 \
    16.3n  0.566 \
    20.2n  0.566 \
    20.4n  0.549 \
    24.2n  0.549 \
    24.4n  0.537 \
    28.0n  0.537 \
]
Vinn (VINN 0) vsource dc=0.550

XDUT (VDD VSS CLK VINP VINN OUT_P) cmp_offset_ref


simulatorOptions options evas_profile=balanced

tran tran stop=28n maxstep=20p
save VDD VSS CLK VINP VINN OUT_P
