simulator lang=spectre
global 0

ahdl_include "./dut/offset_gain_amplifier.va"

Vin (sigin 0) vsource type=pwl wave=[0 -0.2 8n -0.2 8.1n 0.2 18n 0.2 18.1n 0.6 28n 0.6 28.1n 0.35 35n 0.35]

XDUT (sigin sigout) offset_gain_amplifier


tran tran stop=30n maxstep=25p
save sigin sigout
