simulator lang=spectre
global 0

ahdl_include "./dut/pfd_timer_reset.va"

Va (a 0) vsource type=pwl wave=[0 0 0.45n 0 0.47n 0.9 0.65n 0.9 0.67n 0 2.65n 0 2.67n 0.9 2.85n 0.9 2.87n 0 3.8n 0]
Vb (b 0) vsource type=pwl wave=[0 0 1.15n 0 1.17n 0.9 1.35n 0.9 1.37n 0 1.95n 0 1.97n 0.9 2.15n 0.9 2.17n 0 3.8n 0]
XDUT (a b ub d) pfd_timer_reset

simulatorOptions options evas_profile=balanced

tran tran stop=3.5n maxstep=2p
save a b ub d
